US06432949B1
6-chloro-N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]pyridine-3-carboxamide
6-Chloropyrid-3-ylcarbonyl chloride (0.37 g) was added to a mixture of N-(3-amino4-methylphenyl)-3-dimethylaminobenzamide (0.54 g), potassium carbonate (0.304 g), DMF (5 ml) and methylene chloride (20 ml) and the resultant mixture was stirred at ambient temperature for 16 hours. The mixture was poured into water and extracted with ethyl acetate. The organic extracts were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 3:2:1 mixture of isohexane, ethyl acetate and methylene chloride as eluent. There was thus obtained the title compound as a solid (0.122 g); NMR Spectrum: (DMSOd6) 2.19 (s, 6H), 3.28 (s, 3H), 6.88 (m, 1H), 7.25 (m, 4H), 7.57 (m, 1H), 7.7 (d, 1H), 7.84 (d, 1H), 8.36 (m, 1H), 8.95 (d,1H), 10.11 (s, 1H), 10.16 (s, 1H); Mass Spectrum: M+H+ 409 and 411.

reactant | 6-Chloropyrid-3-ylcarbonyl chloride | 0.37 g | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | N-(3-amino4-methylphenyl)-3-dimethylaminobenzamide | 0.54 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N(C)C)=O | C16H19N3O
reactant | potassium carbonate | 0.304 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]pyridine-3-carboxamide | 0.122 g | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(C1=CC(=CC=C1)N(C)C)=O)C | C22H21ClN4O2
